US05854232
N-Adamantan-1-yl-2-methoxymethyl-3-pyridin-4-yl-2-pyridin4-ylmethyl propionamide
To a well-stirred suspension of N-adamantan-1-yl-2-hydroxymethyl-3-pyridin-4-yl-2-pyridin-4-ylmethyl-propionamide (40 mg, 0.1 mmol) in anhydrous tetrahydrofuran (0.50 ml), sodium hydride (7.8 mg of 60% mineral oil dispersion; 0.2 mmol of sodium hydride) was added. After stirring at ambient temperature for 30 minutes, methyl iodide (12.5 μl, 0.2 mmol) was added. After stirring for 2 hours at ambient temperature, the reaction was quenched by the addition of water/methylene chloride (10 ml of each). The mixture was then extracted twice with 10 ml portions of methylene chloride. The combined organic extracts were dried (anhydrous sodium sulfate) and concentrated in vacuo to an oil (60 mg). Flash chromatography of the entire sample (silica gel, 40 micron mesh; elution with methanol/ethyl acetate=1:9 in volume) afforded the title compound (free base) as an amorphous solid (16 mg).

reactant | N-adamantan-1-yl-2-hydroxymethyl-3-pyridin-4-yl-2-pyridin-4-ylmethyl-propionamide | 0.1 mmol, 40 mg | C12(CC3CC(CC(C1)C3)C2)NC(C(CC2=CC=NC=C2)(CC2=CC=NC=C2)CO)=O | C25H31N3O2
reactant | sodium hydride | 0.2 mmol, 7.8 mg | [H-].[Na+]
reactant | methyl iodide | 0.2 mmol, 12.5 μl | CI | CH3I
solvent | tetrahydrofuran | 0.50 ml | O1CCCC1 | C4H8O
product | N-Adamantan-1-yl-2-methoxymethyl-3-pyridin-4-yl-2-pyridin4-ylmethyl propionamide | 16 mg | C12(CC3CC(CC(C1)C3)C2)NC(C(CC2=CC=NC=C2)(CC2=CC=NC=C2)COC)=O | C26H33N3O2
